US04657842
9.5 g of 2-azidomethylanthraquinone are dissolved in 100 ml of DMF, 1.0 g of platinum-on-charcoal catalyst (5% by weight of Pt) is added and hydrogenation is carried out with hydrogen for 15 minutes. The catalyst is filtered off, 200 ml of water are added to the filtrate and the mixture is filtered. The red crystals which have precipitated are recrystallised from dioxane. 6.5 g (70.01% of theory) of 2-aminomethylanthraquinone are obtained; melting point: 170°-78° C.

reactant | 2-azidomethylanthraquinone | 9.5 g | N(=[N+]=[N-])CC1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C15H9N3O2
reactant | hydrogen | [H][H] | H2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
catalyst | platinum-on-charcoal | 1.0 g | [Pt] | Pt
product | 2-aminomethylanthraquinone | 6.5 g, 70.01% | NCC1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C15H11NO2
